* source LF_GEN
X_M3         N17266 N17574 0 IRFP460
X_TX6    N17266 N17866 N17836 0 SCHEMATIC1_TX6 
V_V7         N17606 0  
+PULSE 0V 15V 20usec 0 0 2usec 20usec
X_Q6         0 N17368 N17406 awb2n3906 PARAMS:                                 
+            
R_R24         N18326 N18162  1k TC=0,0 
R_R15         N17606 N17368  1k TC=0,0 
X_TX5    N18246 0 N17568 0 SCHEMATIC1_TX5 
C_C14         N18326 N18162  22n  TC=0,0 
X_Q7         N18278 N18162 N18220 awb2n3904 PARAMS:                            
+                 
R_R22         0 N17866  150k TC=0,0 
R_R23         N17266 N18076  10k TC=0,0 
C_C13         0 N17866  20u  TC=0,0 
V_V9         N18326 0  
+PULSE 0V 15V 30usec 0 0 2usec 20usec
R_R17         N17574 N17568  10 TC=0,0 
C_C12         N17866 N17914  20u  TC=0,0 
C_C11         0 N17468  47u  TC=0,0 
R_R20         0 N17836  150 TC=0,0 
X_Q8         0 N18162 N18220 awb2n3906 PARAMS:                                 
+            
V_V6         N17468 0 DC 15V  
X_M4         N17914 N18076 N17266 IRFP460
X_TX4    N17436 0 N18546 N17266 SCHEMATIC1_TX4 
C_C9         N17606 N17368  22n  TC=0,0 
V_V8         N18278 0 DC 15V  
V_V10         N17914 0 DC 220V  
R_R25         N18076 N18546  10 TC=0,0 
C_C16         0 N18278  47u  TC=0,0 
X_Q5         N17468 N17368 N17406 awb2n3904 PARAMS:                            
+                 
R_R16         0 N17574  10k TC=0,0 
R_R21         N17866 N17914  150k TC=0,0 
X_C21         N17406 N17436 awbcapacitor PARAMS: CAP=10U C1=10N C2=2 C3=111
+  ESL=100U RESL=10 ESR=11 RP=12M TC=100 TC1_ESR=10 TC2_ESR=10
X_C22         N18220 N18246 awbcapacitor PARAMS: CAP=10U C1=10N C2=2 C3=111
+  ESL=100U RESL=10 ESR=11 RP=12M TC=100 TC1_ESR=10 TC2_ESR=10
D_D18         N17266 N851801 D1N4744A 
D_D19         0 N852271 D1N4744A 
V_V22         N90303 0  
+PULSE 0V 15V 20usec 0 0 2usec 20usec
V_V24         N90979 0  
+PULSE 0V 15V 30usec 0 0 2usec 20usec
R_R62         0 N90267  10k TC=0,0 
D_D23         0 N913351 D1N4744A 
X_C46         N90119 N90133 awbcapacitor PARAMS: CAP=10U C1=10N C2=2 C3=111
+  ESL=100U RESL=10 ESR=11 RP=12M TC=100 TC1_ESR=10 TC2_ESR=10
C_C51         0 N90555  2.2u  TC=0,0 
R_R66         0 N90525  150 TC=0,0 
X_Q18         N90931 N90843 N90893 awb2n3904 PARAMS:                           
+                  
X_C47         N90893 N90899 awbcapacitor PARAMS: CAP=10U C1=10N C2=2 C3=111
+  ESL=100U RESL=10 ESR=11 RP=12M TC=100 TC1_ESR=10 TC2_ESR=10
X_Q19         0 N90843 N90893 awb2n3906 PARAMS:                                
+             
R_R70         N90979 N90843  1k TC=0,0 
R_R67         N90555 N90603  150k TC=0,0 
C_C49         0 N90165  47u  TC=0,0 
R_R61         N90303 N90065  1k TC=0,0 
X_TX14    N90899 0 N90261 0 SCHEMATIC1_TX14 
X_M10         N90603 N90757 N89977 IRFP460
C_C50         N90555 N90603  2.2u  TC=0,0 
X_TX13    N90133 0 N91199 N89977 SCHEMATIC1_TX13 
D_D25         N90267 N913351 D1N4740A 
X_Q16         N90165 N90065 N90119 awb2n3904 PARAMS:                           
+                  
D_D24         N90757 N913111 D1N4740A 
R_R68         0 N90555  150k TC=0,0 
C_C53         0 N90931  47u  TC=0,0 
X_Q17         0 N90065 N90119 awb2n3906 PARAMS:                                
+             
C_C48         N90303 N90065  22n  TC=0,0 
V_V21         N90165 0 DC 15V  
V_V25         N90603 0 DC 220V  
C_C52         N90979 N90843  22n  TC=0,0 
R_R63         N90267 N90261  10 TC=0,0 
R_R69         N89977 N90757  10k TC=0,0 
D_D22         N89977 N913111 D1N4744A 
V_V23         N90931 0 DC 15V  
X_TX15    N89977 N90555 N90525 0 SCHEMATIC1_TX15 
R_R71         N90757 N91199  10 TC=0,0 
X_M9         N89977 N90267 0 IRFP460
C_C54         N89977 N91629  20u  TC=0,0 
R_R72         N91629 N90603  150 TC=0,0 
R_R73         N92147 N90555  150 TC=0,0 
C_C55         0 N92147  20u  TC=0,0 
D_D26         N18076 N851801 D1N4740A 
D_D27         N17574 N852271 D1N4740A 

.subckt SCHEMATIC1_TX6 1 2 3 4  
K_TX6         L1_TX6 L2_TX6 1
L1_TX6         1 2 600uH
L2_TX6         3 4 15000uH
.ends SCHEMATIC1_TX6

.subckt SCHEMATIC1_TX5 1 2 3 4  
K_TX5         L1_TX5 L2_TX5 1
L1_TX5         1 2 1000uH
L2_TX5         3 4 5000uH
.ends SCHEMATIC1_TX5

.subckt SCHEMATIC1_TX4 1 2 3 4  
K_TX4         L1_TX4 L2_TX4 1
L1_TX4         1 2 1000uH
L2_TX4         3 4 5000uH
.ends SCHEMATIC1_TX4

.subckt SCHEMATIC1_TX14 1 2 3 4  
K_TX14         L1_TX14 L2_TX14 1
L1_TX14         1 2 1000uH
L2_TX14         3 4 5000uH
.ends SCHEMATIC1_TX14

.subckt SCHEMATIC1_TX13 1 2 3 4  
K_TX13         L1_TX13 L2_TX13 1
L1_TX13         1 2 1000uH
L2_TX13         3 4 5000uH
.ends SCHEMATIC1_TX13

.subckt SCHEMATIC1_TX15 1 2 3 4  
K_TX15         L1_TX15 L2_TX15 1
L1_TX15         1 2 600uH
L2_TX15         3 4 15000uH
.ends SCHEMATIC1_TX15
