* source LF_GEN
X_M3         N17266 N17574 0 IRFP460
X_TX6    N17266 N17866 N17836 0 SCHEMATIC1_TX6 
V_V7         N17606 0  
+PULSE 0V 15V 20usec 0 0 2usec 20usec
X_Q6         0 N17368 N17406 awb2n3906 PARAMS:                                 
+            
R_R24         N18326 N18162  1k TC=0,0 
R_R15         N17606 N17368  1k TC=0,0 
X_TX5    N18246 0 N17568 0 SCHEMATIC1_TX5 
C_C14         N18326 N18162  22n  TC=0,0 
X_Q7         N18278 N18162 N18220 awb2n3904 PARAMS:                            
+                 
R_R22         0 N17866  150k TC=0,0 
R_R23         N17266 N18076  10k TC=0,0 
C_C13         0 N17866  2.2u  TC=0,0 
V_V9         N18326 0  
+PULSE 0V 15V 30usec 0 0 2usec 20usec
R_R17         N17574 N17568  10 TC=0,0 
C_C12         N17866 N17914  2.2u  TC=0,0 
C_C11         0 N17468  47u  TC=0,0 
R_R20         0 N17836  200 TC=0,0 
X_Q8         0 N18162 N18220 awb2n3906 PARAMS:                                 
+            
V_V6         N17468 0 DC 15V  
X_M4         N17914 N18076 N17266 IRFP460
X_TX4    N17436 0 N18546 N17266 SCHEMATIC1_TX4 
C_C9         N17606 N17368  22n  TC=0,0 
V_V8         N18278 0 DC 15V  
V_V10         N17914 0 DC 300V AC 0 
R_R25         N18076 N18546  10 TC=0,0 
C_C16         0 N18278  47u  TC=0,0 
X_Q5         N17468 N17368 N17406 awb2n3904 PARAMS:                            
+                 
R_R16         0 N17574  10k TC=0,0 
R_R21         N17866 N17914  150k TC=0,0 
X_C22         N18220 N18246 awbcapacitor PARAMS: CAP=10U C1=10N C2=2 C3=111
+  ESL=100U RESL=10 ESR=11 RP=12M TC=100 TC1_ESR=10 TC2_ESR=10
D_D18         N17266 N851801 D1N4744A 
D_D19         0 N852271 D1N4744A 
D_D26         N18076 N851801 D1N4740A 
D_D27         N17574 N852271 D1N4740A 
R_R82         N112282 N113484  10 TC=0,0 
X_TX17    N113184 0 N112594 0 SCHEMATIC1_TX17 
V_V27         N112638 0  
+PULSE 0V 15V 20usec 0 0 2usec 20usec
X_M12         N112888 N112282 N112310 IRFP460
D_D30         N112310 N1122701 D1N4744A 
D_D28         N112282 N1122701 D1N4740A 
X_TX16    N112466 0 N113484 N112310 SCHEMATIC1_TX16 
C_C63         0 N113216  47u  TC=0,0 
X_M11         N112310 N112306 0 IRFP460
V_V28         N113216 0 DC 15V  
V_V29         N113264 0  
+PULSE 0V 15V 30usec 0 0 2usec 20usec
C_C60         N112840 N112888  2.2u  TC=0,0 
X_Q21         0 N112398 N112452 awb2n3906 PARAMS:                              
+               
X_Q23         0 N113128 N113178 awb2n3906 PARAMS:                              
+               
X_TX18    N112310 N112840 N112816 0 SCHEMATIC1_TX18 
R_R80         N112310 N112282  10k TC=0,0 
V_V30         N112888 0 DC 300V AC 0 
R_R76         N112306 N112594  10 TC=0,0 
R_R75         0 N112306  10k TC=0,0 
R_R79         0 N112840  150k TC=0,0 
D_D31         0 N1122941 D1N4744A 
C_C58         N112638 N112398  22n  TC=0,0 
X_Q20         N112498 N112398 N112452 awb2n3904 PARAMS:                        
+                     
C_C62         N113264 N113128  22n  TC=0,0 
D_D29         N112306 N1122941 D1N4740A 
X_Q22         N113216 N113128 N113178 awb2n3904 PARAMS:                        
+                     
R_R81         N113264 N113128  1k TC=0,0 
V_V26         N112498 0 DC 15V  
C_C61         0 N112840  2.2u  TC=0,0 
R_R77         0 N112816  200 TC=0,0 
R_R78         N112840 N112888  150k TC=0,0 
R_R74         N112638 N112398  1k TC=0,0 
X_C57         N113178 N113184 awbcapacitor PARAMS: CAP=10U C1=10N C2=2 C3=111
+  ESL=100U RESL=10 ESR=11 RP=12M TC=100 TC1_ESR=10 TC2_ESR=10
C_C59         0 N112498  47u  TC=0,0 
R_R83         N113885 N112888  10 TC=0,0 
C_C65         N112310 N113885  1n  TC=0,0 
C_C66         0 N114015  1n  TC=0,0 
R_R84         N114015 N112840  10 TC=0,0 
X_C67         N17406 N17436 awbcapacitor PARAMS: CAP=10U C1=10N C2=2 C3=111
+  ESL=100U RESL=10 ESR=11 RP=12M TC=100 TC1_ESR=10 TC2_ESR=10
X_C68         N112452 N112466 awbcapacitor PARAMS: CAP=10U C1=10N C2=2 C3=111
+  ESL=100U RESL=10 ESR=11 RP=12M TC=100 TC1_ESR=10 TC2_ESR=10
C_C72         N122633 N122681  2.2u  TC=0,0 
D_D33         N122099 N1220871 D1N4740A 
R_R91         N122103 N122075  10k TC=0,0 
X_Q26         N123009 N122921 N122971 awb2n3904 PARAMS:                        
+                     
D_D34         N122103 N1220631 D1N4744A 
X_TX21    N122103 N122633 N122609 0 SCHEMATIC1_TX21 
R_R93         N122075 N123277  10 TC=0,0 
R_R87         N122099 N122387  10 TC=0,0 
D_D32         N122075 N1220631 D1N4740A 
R_R95         N123513 N122633  10 TC=0,0 
R_R94         N123475 N122681  10 TC=0,0 
X_C69         N122971 N122977 awbcapacitor PARAMS: CAP=10U C1=10N C2=2 C3=111
+  ESL=100U RESL=10 ESR=11 RP=12M TC=100 TC1_ESR=10 TC2_ESR=10
X_M14         N122681 N122075 N122103 IRFP460
C_C70         N122431 N122191  22n  TC=0,0 
X_TX20    N122977 0 N122387 0 SCHEMATIC1_TX20 
V_V31         N122291 0 DC 15V  
V_V35         N122681 0 DC 300V AC 0 
X_TX19    N122259 0 N123277 N122103 SCHEMATIC1_TX19 
C_C75         0 N123009  47u  TC=0,0 
D_D35         0 N1220871 D1N4744A 
X_M13         N122103 N122099 0 IRFP460
C_C71         0 N122291  47u  TC=0,0 
C_C76         N122103 N123475  1n  TC=0,0 
V_V34         N123057 0  
+PULSE 0V 15V 30usec 0 0 2usec 20usec
X_Q27         0 N122921 N122971 awb2n3906 PARAMS:                              
+               
C_C77         0 N123513  1n  TC=0,0 
C_C73         0 N122633  2.2u  TC=0,0 
X_Q24         N122291 N122191 N122245 awb2n3904 PARAMS:                        
+                     
X_Q25         0 N122191 N122245 awb2n3906 PARAMS:                              
+               
R_R89         N122633 N122681  150k TC=0,0 
X_C78         N122245 N122259 awbcapacitor PARAMS: CAP=10U C1=10N C2=2 C3=111
+  ESL=100U RESL=10 ESR=11 RP=12M TC=100 TC1_ESR=10 TC2_ESR=10
R_R90         0 N122633  150k TC=0,0 
C_C74         N123057 N122921  22n  TC=0,0 
R_R92         N123057 N122921  1k TC=0,0 
R_R88         0 N122609  150 TC=0,0 
V_V32         N122431 0  
+PULSE 0V 15V 20usec 0 0 2usec 20usec
R_R85         N122431 N122191  1k TC=0,0 
V_V33         N123009 0 DC 15V  
R_R86         0 N122099  10k TC=0,0 

.subckt SCHEMATIC1_TX6 1 2 3 4  
K_TX6         L1_TX6 L2_TX6 1
L1_TX6         1 2 600uH
L2_TX6         3 4 15000uH
.ends SCHEMATIC1_TX6

.subckt SCHEMATIC1_TX5 1 2 3 4  
K_TX5         L1_TX5 L2_TX5 1
L1_TX5         1 2 1000uH
L2_TX5         3 4 5000uH
.ends SCHEMATIC1_TX5

.subckt SCHEMATIC1_TX4 1 2 3 4  
K_TX4         L1_TX4 L2_TX4 1
L1_TX4         1 2 1000uH
L2_TX4         3 4 5000uH
.ends SCHEMATIC1_TX4

.subckt SCHEMATIC1_TX17 1 2 3 4  
K_TX17         L1_TX17 L2_TX17 1
L1_TX17         1 2 1000uH
L2_TX17         3 4 5000uH
.ends SCHEMATIC1_TX17

.subckt SCHEMATIC1_TX16 1 2 3 4  
K_TX16         L1_TX16 L2_TX16 1
L1_TX16         1 2 1000uH
L2_TX16         3 4 5000uH
.ends SCHEMATIC1_TX16

.subckt SCHEMATIC1_TX18 1 2 3 4  
K_TX18         L1_TX18 L2_TX18 1
L1_TX18         1 2 600uH
L2_TX18         3 4 15000uH
.ends SCHEMATIC1_TX18

.subckt SCHEMATIC1_TX21 1 2 3 4  
K_TX21         L1_TX21 L2_TX21 1
L1_TX21         1 2 600uH
L2_TX21         3 4 15000uH
.ends SCHEMATIC1_TX21

.subckt SCHEMATIC1_TX20 1 2 3 4  
K_TX20         L1_TX20 L2_TX20 1
L1_TX20         1 2 5000uH
L2_TX20         3 4 10000uH
.ends SCHEMATIC1_TX20

.subckt SCHEMATIC1_TX19 1 2 3 4  
K_TX19         L1_TX19 L2_TX19 1
L1_TX19         1 2 5000uH
L2_TX19         3 4 10000uH
.ends SCHEMATIC1_TX19
